US04542142
A mixture of 4.7 g of (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-(2-carboxyethynyl)-cyclopropane-carboxylate in 45 ml of ethyl acetate was hydrogenated in the presence of 500 mg of 10% palladium hydroxide on barium sulfate and 6.5 ml of quinoline and the mixture was filtered. The filtrate was washed with N hydrochloric acid, then with water until neutral, dried and evaporated to dryness. The 5.1 g of oil residue were chromatographed over silica gel and eluted with a 70-30-1 mixture of hexane-ethyl acetate-acetic acid to obtain 3.8 g of (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-[(Z) 3-hydroxy-3-oxo-1-propenyl]-cyclopropane-carboxylate.

reactant | (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-(2-carboxyethynyl)-cyclopropane-carboxylate | 4.7 g | CC1([C@@H]([C@@H]1C#CC(=O)O)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C23H19NO5
reactant | quinoline | 6.5 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | ethyl acetate | 45 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium hydroxide | 500 mg | [OH-].[Pd+2].[OH-]
product | (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-[(Z) 3-hydroxy-3-oxo-1-propenyl]-cyclopropane-carboxylate | 3.8 g | CC1([C@@H]([C@@H]1\C=C/C(=O)O)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C23H21NO5
